US09388195B2
A) Production of N-benzyl-5-oxo-D-prolinamide
5-Oxo-D-proline (5.0 g), benzylamine (4.65 mL), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (8.5 g) and 1-hydroxybenzotriazole (6.3 g) were mixed in acetonitrile (100 mL) under ice-cooling, and the mixture was allowed to warm to room temperature and stirred for 3 hr. The mixture was diluted with ethyl acetate (200 mL), and washed successively with 1M hydrochloric acid (50 mL), saturated aqueous sodium hydrogen carbonate solution (50 mL) and brine (50 mL). The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The precipitated solid was collected by filtration, washed with diethyl ether, and dried under reduced pressure to give the title compound (4.02 g) as a white powder.

reactant | 5-Oxo-D-proline | 5.0 g | O=C1CC[C@@H](N1)C(=O)O | C5H7NO3
reactant | benzylamine | 4.65 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 8.5 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 6.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-benzyl-5-oxo-D-prolinamide | 4.02 g | C(C1=CC=CC=C1)NC([C@@H]1NC(CC1)=O)=O | C12H14N2O2
